US07427612B2
(2-Morpholin-4-yl-5-tetrazol-1-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
A suspension of (5-Amino-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (50 mg, 0.115 mmol) in Acetic acid (1 ml) was heated to 75° C. under nitrogen and then triethylorthoformate (36.76 ul, 0.34 mmol) was slowly added. After 1 hour, sodium azide (22.4 mg, 0.34 mmol) was added portionwise and the reaction mixture was stirred at 75° C. for 1 h 30. The reaction mixture was cooled to room temperature, diluted with water and basified with 1N NaOH solution. The aqueous phase was extracted with ethyl acetate. The organic phases were combined, dried over Na2SO4, filtered and evaporated to dryness. The residue was chromatographed on silica gel: Eluent: Heptane/Ethylacetate 0% to 60% (10 minutes) to provide the title compound (29 mg, 52%) as yellow solid, MS (m/e): 488.2 (M+H+, 100%)

reactant | (5-Amino-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 0.115 mmol, 50 mg | NC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)N1CCOCC1 | C22H25F3N4O2
reactant | triethylorthoformate | 0.34 mmol, 36.76 ul | C(C)OC(OCC)OCC | C7H16O3
reactant | sodium azide | 0.34 mmol, 22.4 mg | [N-]=[N+]=[N-].[Na+]
solvent | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | NaOH | 1N | [OH-].[Na+]
product | (2-Morpholin-4-yl-5-tetrazol-1-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 29 mg, 52% | N1(CCOCC1)C1=C(C=C(C=C1)N1N=NN=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C23H24F3N7O2
